US06281363B1
A solution of 0.133 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-N-(3-methyl-2,5-dioxo-1-imidazolidinyl)valeramide in 5 ml of methanol was treated with 0.014 g of p-toluenesulphonic acid monohydrate. The mixture was stirred for 2.5 hours at room temperature and then evaporated. The residue was dissolved in ethyl acetate and washed with 5% aqueous sodium hydrogen carbonate. The organic layer was dried over anhydrous magnesium sulphate and evaporated. The residue was triturated with diethyl ether and hexane to give 0.049 g of (E)-2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenyl-3-butenyl]-4-methyl-N-(3-methyl-2,5-dioxo-1-imidazolidinyl)valeramide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-N-(3-methyl-2,5-dioxo-1-imidazolidinyl)valeramide | 0.133 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN1C(N(CC1=O)C)=O)CC(C)C | C26H36N4O6
reactant | p-toluenesulphonic acid monohydrate | 0.014 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 5 ml | CO | CH4O
product | (E)-2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenyl-3-butenyl]-4-methyl-N-(3-methyl-2,5-dioxo-1-imidazolidinyl)valeramide | 0.049 g | ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN1C(N(CC1=O)C)=O)CC(C)C | C21H28N4O5
